US09169198B2
Methyl 2-amino-5-bromo-3-methylbenzoate (100 g, 0.393 mol, 96% of quantitative NMR), copper(I) cyanide (36.3 g, 0.401 mol) and N-methyl-2-pyrrolidinone (NMP) (206 g, 200 mL, 2.084 mol) are heated to 170° C. for 4 hours under agitation. The reaction batch is cooled down to 120° C., 350 mL of H2O (90° C.) are added dropwise in the course of 30 minutes and the suspension obtained is filtered. The solid obtained is washed twice with ammonia (200 g, 12% in H2O) and 2 times with 100 ml of water. Following drying in a vacuum drying cabinet at 50° C., methyl 2-amino-5-cyano-3-methylbenzoate is obtained as a grey solid. Yield: 69.0 g, 88.2% of theory, purity: 95.6% quantitative NMR, 1500 ppm Cu).

reactant | Methyl 2-amino-5-bromo-3-methylbenzoate | 0.393 mol, 100 g | NC1=C(C(=O)OC)C=C(C=C1C)Br | C9H10BrNO2
reactant | copper(I) cyanide | 0.401 mol, 36.3 g | [Cu]C#N
reactant | N-methyl-2-pyrrolidinone | 2.084 mol, 200 mL, 206 g | CN1C(CCC1)=O | C5H9NO
solvent | H2O | 350 mL | O | H2O
product | methyl 2-amino-5-cyano-3-methylbenzoate | NC1=C(C(=O)OC)C=C(C=C1C)C#N | C10H10N2O2
